US07238676B2
N′-({6-[(2,2-Diphenylethyl)amino]-9H-purin-2-yl}methyl)-N-methyl-N-[2-(2-pyridinyl)ethyl]urea
Aqueous hydrochloric acid (2M, 5 ml) was added to a solution of N′-({6-[(2,2-diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purin-2-yl}methyl)-N-methyl-N-[2-(2-pyridinyl)ethyl]urea (Preparation 25) in methanol (50 ml). The solution was stirred for 16 hours at room temperature. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate (100 ml) and the solution was washed with saturated aqueous sodium hydrogen carbonate solution (50 ml) and then dried over anhydrous magnesium sulphate. The solvent was removed under reduced pressure to give the title compound (0.161 g) as a gum.

reactant | hydrochloric acid | 2M, 5 ml | Cl | ClH
reactant | N′-({6-[(2,2-diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purin-2-yl}methyl)-N-methyl-N-[2-(2-pyridinyl)ethyl]urea | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)CNC(N(CCC1=NC=CC=C1)C)=O)C1OCCCC1)C1=CC=CC=C1 | C34H38N8O2
solvent | methanol | 50 ml | CO | CH4O
product | N′-({6-[(2,2-Diphenylethyl)amino]-9H-purin-2-yl}methyl)-N-methyl-N-[2-(2-pyridinyl)ethyl]urea | 0.161 g | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)CNC(N(CCC1=NC=CC=C1)C)=O)C1=CC=CC=C1 | C29H30N8O
